US07632600B2
2 mL of chloroform, 0.326 mL of phosphorus trichloride and 0.082 g of 4,4′-dichloro-2,2′-bipyridyl-N,N′-dioxide were added to a 100 mL round bottom flask equipped with a condenser, and the mixture was refluxed in a hot water bath for 75 hours. The reaction solution was cooled with ice, poured into crushed ice and neutralized with 25% NaOH to pH 7 or higher. Chloroform was removed from the solution by distilling off under reduced pressure. The precipitated white powder was collected by filtration and washed with water. The powder was dissolved in a small amount of petroleum ether and recrystallized in a refrigerator overnight to give white needle crystal. The crystal was dried by heating to 60° C. under reduced pressure to give 4,4′-dichloro-2,2′-bipyridine.

reactant | phosphorus trichloride | 0.326 mL | P(Cl)(Cl)Cl | Cl3P
reactant | 4,4′-dichloro-2,2′-bipyridyl-N,N′-dioxide | 0.082 g | ClC=1C=C([N+](=CC1)[O-])C=1[N+](=CC=C(C1)Cl)[O-] | C10H6Cl2N2O2
reactant | NaOH | [OH-].[Na+]
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 4,4′-dichloro-2,2′-bipyridine | ClC1=CC(=NC=C1)C1=NC=CC(=C1)Cl | C10H6Cl2N2
